US07842685B2
A solution of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(trimethylstannyl)-thiazolo[5,4-b]pyridine (515.5 mg, 1.076 mmol) and cyclobutanecarbonyl chloride (0.147 mL, 1.291 mmol) in toluene (10.0 mL) was stirred under argon at 80° C. for 22 h. The reaction mixture was then concentrated onto silica gel and chromatographically purified (0-50% EtOAc/hexanes) to provide (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-thiazolo[5,4-b]pyridin-5-yl)(cyclobutyl)methanone as an off-white solid. MS (ESI) m/z: Calculated: 398.1; Observed: 398.9 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(trimethylstannyl)-thiazolo[5,4-b]pyridine | 1.076 mmol, 515.5 mg | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)[Sn](C)(C)C)F
reactant | cyclobutanecarbonyl chloride | 1.291 mmol, 0.147 mL | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
product | (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-thiazolo[5,4-b]pyridin-5-yl)(cyclobutyl)methanone | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=O)C1CCC1)F | C21H19FN2O3S
